US06127360
Synthesis of 7-{3-[4-(2-quinolylmethyl)-1-piperazinyl]propoxy)-2,3,4,5-tetrahydro-1H-2-benzoazepin-1-one
A mixture consisting of 7-(chloropropoxy)-2,3,4,5-tetrahydro-1H-2-benzoazepin-1-one (0.507 g, 2 mmol) and 1-(2-quinolylmethyl)piperazine (1.81 g, 8 mmol) was stirred for 4 hours at a bath temperature of 150° C. under an argon gas stream. After the reaction mixture was allowed to cool down, chloroform was added to the reaction mixture to dissolve the same. The resulting solution was rendered basic with a dilute aqueous solution of sodium hydroxide. The thus-obtained solution was washed with water and then dried over anhydrous magnesium sulfate. After the resulting solution was purified by subjecting it to chromatography on a silica gel column (developer: chloroform/methanol=40/1), recrystallization was conducted from acetone. The title compound (0.613 g) was obtained as yellow leaflets (yield: 68.9%).

reactant | 7-(chloropropoxy)-2,3,4,5-tetrahydro-1H-2-benzoazepin-1-one | 2 mmol, 0.507 g | ClCCCOC=1C=CC2=C(CCCNC2=O)C1 | C13H16ClNO2
reactant | 1-(2-quinolylmethyl)piperazine | 8 mmol, 1.81 g | N1=C(C=CC2=CC=CC=C12)CN1CCNCC1 | C14H17N3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 7-{3-[4-(2-quinolylmethyl)-1-piperazinyl]propoxy)-2,3,4,5-tetrahydro-1H-2-benzoazepin-1-one | 0.613 g, yield: 68.9% | N1=C(C=CC2=CC=CC=C12)CN1CCN(CC1)CCCOC=1C=CC2=C(CCCNC2=O)C1 | C27H32N4O2
